US08084457B2
To a solution of 4-(4′-benzyloxy-3-nitrophenyl)amino-6-chloro-pyrimidine (4.91 g) and sulfuric acid (8 ml) in ethanol (300 ml) was added zinc dust (4.49 g). The mixture was then heated under reflux for 18 hours, cooled to room temperature then basified with sodium hydrogen carbonate. After evaporation under reduced pressure, the residue was dissolved in ethyl acetate and water. The organic phase was separated, washed with water, dried (MgSO4) and evaporated under reduced pressure. The residue was then subjected to column chromatography (SiO2; ethyl acetate:petroleum ether (40/60) 1:1) to give 4-(3′-amino-4′benzyloxyphenyl)amino-6-chloro-pyrimidine, 21% δH (d6 DMSO): 4.84 (2H, s, NH2), 5.00 (2H, s, CH2Ph), 6.50-6.60 (2H, m, ArH), 6.70-6.80 (2H, m, ArH and HetH), 7.20-7.50 (5H, m, ArH), 8.30 (1H, s, HetH), 9.45 (1H, s, NH)

reactant | 4-(4′-benzyloxy-3-nitrophenyl)amino-6-chloro-pyrimidine | 4.91 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC1=NC=NC(=C1)Cl)[N+](=O)[O-] | C17H13ClN4O3
reactant | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | zinc | 4.49 g | [Zn] | Zn
product | 4-(3′-amino-4′benzyloxyphenyl)amino-6-chloro-pyrimidine | NC=1C=C(C=CC1OCC1=CC=CC=C1)NC1=NC=NC(=C1)Cl | C17H15ClN4O
